US08334287B2
b) 1-methylsulfanylmethyl-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one
To a solution of 100 mg (0.35 mmol) of 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one in 0.5 ml of dimethylformamide were added 17 mg (0.42 mmol, 1.2 equiv.) of a 60% sodium hydride suspension in mineral oil. After stirring for 1 h at room temperature, 40 uL (50 mg, 0.52 mmol, 1.5 equiv.) of chloromethyl methylsulfide were added and the suspension was stirred for another 16 h at room temperature. After workup with methylene chloride/water, the crude material was purified by flash chromatography (SiO2, gradient ethyl acetate to ethyl acetate:methanol 90:10 v/v) to yield 32 mg of the title compound as a light yellow solid, MS: 350.2 (M+H+).

reactant | 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | 0.35 mmol, 100 mg | CC=1N(C=C(N1)C#CC=1C=C(C=CC1)C)C1=CC(NC=C1)=O | C18H15N3O
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl methylsulfide | 0.52 mmol, 40 uL, 50 mg, 1.5 equiv. | ClCSC | C2H5ClS
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-methylsulfanylmethyl-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | 32 mg | CSCN1C(C=C(C=C1)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C)=O | C20H19N3OS
